US04487927
To a stirred solution of benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (8.14 g) in methanol (50 ml) and tetrahydrofuran (10 ml) was added 35% hydrochloric acid (2.3 ml). After stirring at 30° C. for an hour, the reaction mixture was poured into ice-water and then adjusted to pH 3.5 with a saturated aqueous sodium bicarbonate. The precipitates were collected by filtration and then dried to give benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (7.08 g).

reactant | benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 8.14 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C43H35N5O8S2
reactant | hydrochloric acid | 2.3 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 7.08 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C42H35N5O7S2
